US05580883
To a solution of 1-tert-butyloxycarbonyl-4-(4-amino-2-methylphenyloxy)piperidine (1.5 g) in methylene chloride (30 ml) were added triethylamine (1.3 g) and palmitoyl chloride (1.2 g) with ice-cooling and the mixture was stirred at room temperature for 1 hour. Aqueous saturated solution of sodium bicarbonate was added to the reaction mixture and the organic layer was separated. The aqueous layer was further extracted with methyene chloride (50 ml×2) and the combined orgnaic layer was dried over sodium sulfate and concentrated under reduced pressure. To the solidified residue was added trifluoroacetic acid (5 ml) and the mixture was stirred at room temperature for 30 minutes. After concentration of the reaction mixture under reduced pressure, the resulting residue was dissolved in ethanol and conc. hydrochloric acid (0.37 ml) was added. The resulting solution was concentrated under reduced pressure and the residue was washed with hexane to obtain 4-(4-palmitoylamino-2-methylphenyloxy)piperidine hydrochloride (1.8 g) as white crystals, m.p. 125°-137° C.

reactant | 1-tert-butyloxycarbonyl-4-(4-amino-2-methylphenyloxy)piperidine | 1.5 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=C(C=C1)N)C | C17H26N2O3
reactant | triethylamine | 1.3 g | C(C)N(CC)CC | C6H15N
reactant | palmitoyl chloride | 1.2 g | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-palmitoylamino-2-methylphenyloxy)piperidine hydrochloride | 1.8 g | Cl.C(CCCCCCCCCCCCCCC)(=O)NC1=CC(=C(C=C1)OC1CCNCC1)C | InChI=1S/C28H48N2O2.ClH/c1-3-4-5-6-7-8-9-10-11-12-13-14-15-16-28(31)30-25-17-18-27(24(2)23-25)32-26-19-21-29-22-20-26;/h17-18,23,26,29H,3-16,19-22H2,1-2H3,(H,30,31);1H
